Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
"I wasn't eating right."
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Mr. ___ is a ___ yo male with no past medical history, no formal 
past psychiatric hx, who was BIBA from ___ 
___ on ___ due to auditory hallucinations and 
worsening erratic, bizarre behavior at home. Mr. ___ was 
brought in for evaluation by his mother, given concern for 
increasingly bizarre and isolative behavior at home along with 
poor PO intake, weight loss, and self-dialoguing witnessed prior 
to ED presentation.  
.
Per Dr. ___ on ___:  
.
"Patient states he has had decreased appetite since restarting 
school this week. Patient states he did not have a job, so he 
did not have the money to eat. He states his mother was 
concerned because "she thinks I'm not the same." He feels this 
is because she's afraid he is growing up. He thinks his mother 
is concerned about his eating, but denies any other issues that 
his mother may be concerned about. Patient denies all 
psychiatric ROS consistent
with depression, mania symptoms, psychosis, anxiety, and PTSD. 
However, when told that interviewer was given information about 
him having AH, he then reports "It was a crazy sight in my 
room." He states he saw Lucifer standing in his room last night, 
but states he has seen Lucifer his entire life. However, he 
redacts this by saying he did not physically see Lucifer, but 
instead saw ___ eyes." Denies AH. Denies thoughts of feeling 
unsafe or
having people after him, but when asked this responds, "Is it 
true?" Patient states he has nothing to add with conversation, 
refuses to elaborate on questioning, and continuously states 
there is nothing concerning him other than his decreased 
appetite. 
.
 
COLLATERAL:
.
___: "auditory hallucinations, manic behavior, flight
of ideas" 
.
___: 
___ yo male, poor sleep, AH, self dialogue. + MJ. Denies SI.
Turning lights/on off at home. Flat affect. VSS. on ___ 
.
Mother ___, ___ and Father ___, 
___
Both parents feel that their son has been acting differently 
since ___. Upon returning home from school, they initially 
noticed that he had lost weight, but then he began to act  
erratically as well. Mother explains that his conversation has 
been "off." She describes that he will speak to her rapidly and 
she has a difficult time understanding him. She describes and
example where he kept saying "Mom, you have to stay here" and 
she felt the connection of his conversation was not there. 
However, in these moments, when she tries to ask him more 
questions to understand, he becomes agitated. They had a concern 
about this behavior in ___, so they brought him to ___ 
___ at the time, however he was not admitted. Since then, 
she has noticed decreased appetite, decreased need for sleep, 
decreased self care (not showering). He has been acting more 
erratically, running around the home, turning lights on and off. 
Family has noticed that he has been seen self-dialoguing. For 
example, this morning, he was seen self-dialoguing. He stated 
"he is talking to me." But, when asked who this person is, he 
stopped engaging and stated "It's fine. It's fine." Per mother, 
he will also appear paranoid. He will request to leave places 
quickly because he expresses concern for his safety. He will 
state "they are here, let's go." Given this, mother called PCP 
at ___ (Dr. ___, who was also concerned about 
his behaviors and placed him on a ___.  "
. 
On admission to the inpatient unit, Deaconess 4, Mr. ___ gave 
the following information. Mr. ___ reported that he is primary 
concerned about his poor PO intake and fatigue. He reports that 
he has always isolated himself, is not particularly social. He 
reports that he is unsure why is he currently hospitalized in 
inpatient psychiatry, as he does not believe that he has
exhibited any paranoia or bizarre behavior. Of note throughout 
interview, patient was frequently somnolent, falling 
asleep/closing his eyes, or mumbling, placing blanket over his 
___. Patient did not appear internally preoccupied 
nevertheless, but had notable poverty of speech with little 
spontaneous elaboration. Response latency was at times prolonged 
and speech
was slowed, though it was unclear whether this was secondary to 
taking AM Ativan dose in the ED. 
.
Patient denies any SI/HI or AVH at this time, reporting that he 
has not had any further visual hallucinations. However he last 
saw demons on ___ which appeared to have "googly eyes". He 
denies feeling frightened by seeing the demons. One was next to 
his door and the other was holding a stick, he denies nay 
auditory hallucinations but reports that he was awake, fully
conscious and playing on his phone when he saw these demons. he 
has seen demons prior to this when he was around ___ years old 
and periodically has seen "shadows". Pt reports that he is 
religious and that his father is a ___, but denies any sx 
of hyper religiosity or inherent cultural/ religious believes 
regarding seeing demons. 
.
Patient denies any depressive sx, no reported hx of trauma or sx 
of PTSD, no reported manic symptoms (no flight of ideas, 
irritability/elevated mood, impulsivity, distractibility, 
grandiosity, pressured speech). Pt initially denied any hx of 
paranoid delusional thought content, but then proceeded to
describe concern about his phone being hacked into any time he 
downloads a software update. He notices that there are 
mysterious calls, unrecognizable numbers or "bugs" when he is 
adjacent to someone with a similar type of phone. Patient denies 
any concern at this time for safety at his home or in hospital. 
No evidence of referential thinking, thought blocking or thought 
insertion.
. 
Patient's parents were present during admission to Deac4. Per 
patient's parents, they are significantly concerned about 
patient's worsening isolative behaviors, poor appetite, sleep, 
and bizarre behaviors at home. They expressed concern regarding 
patient stating an antipsychotic but all side effects and 
benefits of starting risperidone (in lieu of Zyprexa) were
discussed. Patient's parents verbalized an understanding that 
patient will be treated at this time for what appears to be a 
likely psychotic break for an unspecified psychotic disorder, 
with plan for future family meeting with periodic clinical 
updates. 
.
During his admission, collateral was obtained from his PCP who 
indicated that she had noted symptoms of depression dating back 
to ___ during routine office visits. Information collected from 
his parents, the patient, and his Aunt ___ during the family 
meeting outlined a period of depressed mood in ___ after her 
adoptive grandmother became very ill and then several week 
period of odd behavior, covering up the windows in his room, 
decreased sleep and rapid speech leading up to the 
hospitalization with an episode of visual hallucinations the 
week of the admission
 
Past Medical History:
========================
PAST PSYCHIATRIC HISTORY
========================

- Past diagnoses: Denies
- Hospitalizations: Denies
- Psychiatrist: Denies
- Therapist: Denies
- Medication : Denies
- Self-injury/Suicide attempts: Denies
- Harm to others: Denies
- Trauma: Denies

====================
PAST MEDICAL HISTORY
====================

- PCP: ___
- ___ trauma: Denies
- Seizures: Denies
- PMHx:  Denies
            
 
Social History:
=====================
SUBSTANCE USE HISTORY
=====================
- EtOH: Denies, denies h/o of withdrawal, detox admissions, h/o
seizures; drinks occasionally (socially) 
- Tobacco: Denies
- Cannabis: patient quit 3 months ago, was previously smoking
daily since late middle school. 
- Illicits: Denies

================
FORENSIC HISTORY
================
- Arrests: Denies
- Convictions and jail terms: Denies
- Current status (pending charges, probation, parole): Denies

==============
SOCIAL HISTORY
==============
- B/R: Lives in ___ with parents. Born in ___ but 
moved around ___ frequently with his family due to his 
father's job as a ___. ___ attended multiple high schools 
due to moving, even attending ___ schools during his sophomore 
year alone. 
- Family: Mother, father (grew up in an intact family), parents
are from ___. Has 2 siblings (1 older and ___ younger
brother, older brother is in college and younger brother is in
___ grade, he has a good relationship with his siblings but does
not talk to them frequently). 
- Relationship status: single, no recent relationships/breakups.
Identifies as heterosexual male, interested in women. No acute
sexual concerns. 
- Primary supports: feels lonely, but states he will go to his
father if he needs something, considered his father to be his
primary support. 
- Housing: Lives at home  w/ parents and grandparents. 
- Education: Freshman in college, in ___. ___,
studying to become a ___. Doing well in school,
gets mostly "b's" for his grades. Enjoys schools.  He took one 
year off before college started and worked at ___ and then a 
___ briefly. He filled out the common application on his own 
and completed the college essays without assistance from his 
parents. 
- Employment/income: previously worked at ___, but currently
unemployed; has parental financial support, using student loans
to pay for undergrad. Currently is looking for a job at school 
to
work on campus. 
- Activities/ Hobbies:  Enjoys playing the piano, watching TV,
hanging out with friends, walking, playing videogames. Reports
that he has few to no friends, feels lonely. 
- Spiritual: Yes - ___, he prefers to keep his 
spiritually private. Father is a ___. 
- Access to weapons: No
 
Family History:
Denies family history of psychiatric illness, substance use, or
suicide attempts 
 
Physical Exam:
VITALS
 ___ 1306 Temp: 97.7 BP: 114/75 HR: 66 RR: 16 O2 sat: 100% 

EXAM: 
- GENERAL: awake, cooperative, NAD
- HEENT: normocephalic, atraumatic, moist mucous membranes, no
scleral icterus
- Cardiovascular: regular rate, well perfused
- Pulmonary: breathing comfortably on room air, no increased 
work
of breathing
- Abdominal: soft, non-distended, no guarding, no masses or
organomegaly
- Extremities: no cyanosis, clubbing, or edema bilaterally
- Skin: no rashes or lesions noted

NEUROLOGICAL  
 - Station and Gait: Normal station and gait
 - Strength: Strength ___ in b/l upper and lower extremities 
 - Abnormal Movements: no tics, tremors, evidence of EPS
 - Cranial Nerves: EOMI, nasolabial folds symmetric, palate
elevates symmetrically, tongue protrudes midline

COGNITION 
- Wakefulness/alertness: awake and alert
- Attention: inattentive at times to interview. 
- Orientation: oriented to person, time, place, situation
- Memory: Intact to recent hospital events. 
     - long-term grossly intact
- Fund of knowledge: consistent with education
- Language: native ___ speaker, no paraphasic errors,
appropriate to conversation

MENTAL STATUS
- Appearance: no acute distress, young ___ male
appearing stated age, sitting eating lunch, covered in white
blanket draped over ___ and shoulders.  
- Attitude/Behavior: calm, polite but disengaged, minimally
participating in interview. Appears somewhat apathetic,
frequently closing eyes likely I/s/o drowsiness.  
appropriate eye contact
- Mood: "I'm fine" 
- Affect: mood-incongruent, flat and constricted affect,
minimally reactive. 
- Speech: slowed rate, normal volume, and monotone, mumbling
frequently 
- Thought process: vague, limited expansion, little spontaneous
elaboration w/ poverty of speech. 
- Thought Content: denies SI/HI, some evidence of paranoia
regarding phone being hacked, endorses visual hallucinations of
demon (saw lucifer on ___ night).  Denies AH but patient's
mother thought pt was self dialoguing. No evidence of internal
preoccupation on exam.  
- Judgment and Insight: Limited/ poor 

 
Pertinent Results:
___ 09:00AM BLOOD ALT-15 AST-21 AlkPhos-53 TotBili-0.6
___ 11:30AM BLOOD Calcium-10.3 Phos-3.1
___ 11:30AM BLOOD VitB12-865 Folate-13
___ 09:00AM BLOOD %HbA1c-5.5 eAG-111
___ 09:00AM BLOOD Triglyc-80 HDL-65 CHOL/HD-3.0 LDLcalc-113
___ 09:00AM BLOOD TSH-1.5
. 
HIV neg
Trep Ab neg. 
. 
CBC, BMP wnl 

___
Test                          Result              Reference 
Range/Units
COPPER                        82                  70-175 mcg/dL

 Test                          Result              Reference 
Range/Units
CERULOPLASMIN                 32                  ___ mg/dL
 

 
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission.  He also placed on q15 minute checks 
status on admission and remained on that level of observation 
throughout while being unit restricted.

2. PSYCHIATRIC:
#)Unspecified psychotic disorder 
. 
Mr. ___ is a ___ yo male with no past medical history, no formal 
past psychiatric hx, who was BIBA from ___ 
___ on ___ due to auditory hallucinations and 
worsening erratic, bizarre behavior at home. Mr. ___ was 
brought in for evaluation by his mother, given concern for 
increasingly bizarre
and isolative behavior at home along with poor PO intake, weight 
loss, and self-dialoguing witnessed prior to ED presentation.  
. 
On initial interview, patient minimized his symptoms, stating 
that he was merely concerned about his poor PO intake, weight 
loss, and fatigue but did not believe his behavior was 
concerning. Patient appeared minimally engaged, with little 
spontaneous elaboration in speech, notable slow rate of speech 
with frequently mumbling. Patient maintained poor eye contact 
and was frequently closing his eyes. On interview pt endorsed 
visual hallucinations of demons and shadows which were 
egosyntonic and not particularly disturbing to pt, paranoid 
delusional thought content (about phone being "bugged" and 
"hacked into"), and demonstrated poor insight regarding current 
presentation. While patient reported that he has been doing well 
in school despite feeling overwhelmed w/ academic requirements 
and isolated socially, it was unclear whether patient was 
minimizing his sx, disengaged, and not forthcoming about 
potential cognitive difficulties secondary to prodromal vs. mood 
symptoms. Mental status was particularly concerning for mood 
incongruent affect which appeared blunted and minimally 
reactive. Pt was at times smirking, self dialoguing, lingering 
on the periphery of the unit, and appeared oddly related. 
Thought process was vague and perseverative at times, w/ limited 
spontaneous elaboration in speech and inattentiveness during 
interview. 

During course of hospitalization, patient was initially started 
on olanzapine 2.5 mg BID which due to oversedation in the ED, 
was discontinued. Patient was instead started on Risperidone 0.5 
mg QHS which was eventually increased to 2.5 mg QHS. Pt 
tolerated this change in dose well without reported side 
effects. This dose initially seemed to beneficial, as patient 
briefly appeared more animated and engaged(to the point of 
discussing establishment of aftercare). However, the following 
day was again, guarded, minimizing, and isolative.

Notably, patient did display evidence of decreased cognition. On 
___, patient scored ___ on the MOCA. Patient had 
difficulty with visuospatial tasks and executive functioning 
(could not mimic pattern or copy a cube; able to have the 
contour of the clock but incorrectly placed the hands of the 
clock and showed the wrong time - put hands at 12:00 instead of 
11:10). Patient also had difficulty with tasks of attention. He 
could not perform serial 7 subtraction (stated 100-7 was 27, 
then 25 on repeat questioning). Pt was unable to repeat 
sentences that interviewer read, and would insert a few words 
into the sentence incorrectly. He also had difficulty with 
delayed recall (only able to recall ___ after 5 minutes). 
Lastly, during tasks of orientation, patient thought the month 
was ___ rather than ___. 

Diagnostically, presentation is concerning for new onset 
psychosis in setting of a first psychotic break  vs. primary 
mood disorder (specifically bipolar disorder with psychotic 
features). Given patient's worsening isolative behavior, 
avolition, affective blunting, presentation is concerning for 
negative sx of psychosis w/ a
prodromal period. But primary mood disorder is also a 
possibility. ___ consider unipolar depression  given evidence 
from family meeting of patient's low mood
following the grief of a close family member (grandmother)'s 
coma, decreased PO intake,and social withdrawal. And per 
collateral from PCP, patient reported symptoms of depression 
dating back to ___. However, a bipolar diathesis should be 
considered given patient's voiced decreased need for sleep for 
several days in conjunction with collateral from mother 
describing his rapid speech, increased energy, and irritable 
mood. No evidence of prior hx of trauma concerning for PTSD.  Of 
note, results of psychological testing are presented below. 
Further medical work up was performed to further evaluate 
potential cause of new onset psychosis. CBC, BMP, LFTs, TSH were 
all negative. HIV and treponemal antibody were negative. MRI 
showed right splenium corpus callosum and left pericallosal
nonenhancing white matter lesions. Neurology was consulted 
regarding the 2 small non
enhancing white matter lesions who reported. They are most 
likely incidental and unrelated to his current presentation. 
They certainly are too small to be directly responsible for his 
symptoms. They are not in a distribution that would be expected 
in limbic encephalitis (as in NMDA encephalitis and other 
auto-immune encephalitidies). History is not suggestive of 
encephalitis particularly, there are no abnormal movements, 
memory issues, symptoms concerning for seizures. He does not 
report any history that would clearly explain these lesions from 
a past insult. He does not have a history of migraine. Seizure 
would not seem to explain his clinical picture either and 
suspicion for this is low. MS also seems unlikely, he denies any 
clinical symptoms that would seem suggestive of MS. ___ as 
this seems incidental do not recommend further workup of this 
finding at this time. Yield of LP and EEG seem low currently. 
They  recommended follow-up non-contrast MRI in 12 months to 
monitor for changes. 

At time of discharge, patient was still guarded and mimimizing 
of symptoms. However he demonstrated engagement and willingness 
to discuss aftercare. He was able to show motivation by looking 
up discharge options on his own and by attending groups, which 
he had declined previously. However, given that family is 
closely involved in patient's aftercare and PCP is aware of 
patient's condition and willing to have close follow-up, 
discharge is appropriate. Pt would benefit from engagement in a 
community oriented program (PREP, a club house), vocational 
supports (Mass
Rehab) and full neuropsychological testing.

PSYCHOLOGICAL TESTING RESULTS: 
TEST FINDINGS:
"When approached for testing, the patient seemed a little
reluctant to participate. But after some discussion of the
purpose of the testing, he stated he would. When oriented to the
testing materials, he at first said he thought the test was 
quite
long.  When explained he could take his time and he could answer
some questions and take breaks, he seem to feel more comfortable
about the process. It was explained to him that it took between
60 to 90 minutes for the average person to complete the test.

After being oriented, the patient took the test back to his room
to complete.  The tester was paged about 45 minutes later and
informed that the patient had completed the test.   It was
surprising to the tester that the patient completed the test so
quickly.

When scored the test protocol displayed some significant 
validity
concerns. His validity profile had a moderately elevated ICN
[Inconsistency] Scale at 68T and a significant INF [Infrequent]
Scale at 90T.  The moderately elevated ICN Scale would suggest
that patient in his rapid approach to completing the test was
inconsistent in his answering.  The test asks the same kind of
questions in the beginning and end and his answers were not
consistent.

The significant INF Scale is more concerning. High scores on the
INF Scale suggest that the patient did not pay appropriate
attention to ___ question content. INF question are ones not
endorse by average test takers.  They appear to be interesting
questions but when thought about are not true. This significant
INF score would suggest that the patient answering question too
quickly to reason appropriately or he had trouble rationally
thinking about questions and coming up with the correct answer. 
Given these two serious validity concerns the patient's clinical
profile will be cautiously interpreted 

The patient's clinical profile is relatively low and suggests
there may be some degree of under-reporting.  Only three 
clinical
findings will be highlighted.

The first is the DEP [Depression] Scale.  Results here would
suggest that the patient might be experiencing some depression 
or
depressive feelings. Depression may be the result of his 
recently
difficulties involving starting school and he reports that he 
was
not feeling well and had fatigue.

Next Scale is PAR [Paranoia] and its subscale formation is PAR-H
average, PAR-P high, and PAR-R high. This subscale formation
suggests a person who feels that life has treated him unfairly.
Such people are bitter about their perceived mistreatment and
they feel they have been victimized in some manner. They tend to
be envious of other and to denigrate their own achievements. 
Such people are prone to attribute cause of their problems
externally.

The final Scale is SCZ [Schizophrenia].  Two of the subscales 
are
close to significance and one is significant. This is likely to
suggest that the individual is experiencing some psychotic
symptoms involving unusual perceptual or sensory experiences.
Such people thought processes are likely to be marked by
confusion, distractibility, and difficulty in concentration.

Finally, the patient endorses no suicide ideation [SUI at 60T]. 
He does endorse not having many friends or people he can count 
on
for support [NON at 70T].  He also rated very low on WRM [32T]
and low scores here would suggest someone who does not show many
feelings and is quiet and keeps to them self.

IMPLICATES FOR INPATIENT TREATMENT:  The Inpatient Treatment 
Team
requested psychological testing of an individual who was having
difficulty thinking clearly and they questioned whether 
psychosis
maybe present.

The patient completed the testing very quickly and it would
appear he may not have properly thought about what the question
were asking and rationally answered the questions.  Because of
the rapid manner he completed the test; he clearly was
inconsistent in answering some of the questions.  He also had
significant elevation on the INF validity scale which would
suggest he failed to reasonably analyze these questions
appropriately.  The tester believes the patient is having 
trouble
thinking clearly and may jump to conclusion at times.

The patient it also appears may have under-reporting what been
happening and down-playing what is going on.  Despite, this 
there
are some psychological conclusion worth noting.

First, he may be experiencing some depression probably in
response to his having difficulty figuring out what is going on. 

He also reported that he is probably experiencing some psychotic
symptoms and has had some unusual perceptual and sensory
experiences.  He is also acknowledging that he is probably 
having
some thought confusion and difficulty in concentration.

Finally, it is important for the patient and his family to
realize that what the patient is experiencing may be the onset 
of
a more serious psychotic condition and he needs to be monitored
closely and treated to avoid a first psychotic break."

3. SUBSTANCE USE DISORDERS:
#)Cannabis Use Disorder
- Pt denied active substance use, however used to smoke daily 
for years prior to presentation. Of note, Utox was negative for 
cannabinoids at time of admission. Continued to encourage 
sobriety from cannabis use and development of positive coping 
strategies. 
.

4. MEDICAL
N/A 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient was initially reluctant to attend groups, but later 
began to attend ___ groups that focused on teaching patients 
various coping skills. He was often visible in the milieu but 
largely isolative. He often work headphones throughout the unit, 
raising concern for attendance to internal stimuli. However, he 
was appropriate in his interaction with peers and staff without 
ever requiring restraint or seclusion.

#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
Aunt ___
Mother ___
Father ___

The patient’s family was involved in the patients’ treatment and 
discharge planning, and was provided with the opportunity to 
discuss the patient’s diagnosis and treatment with the primary 
treatment team. The patient’s family was supportive of the 
patient’s treatment and aftercare plan.  

Family meeting performed on ___ with patient's mother, 
father, and aunt. Patient is able to voice that he has a support 
system with his family. It was evident during family meeting 
that his Aunt (___) is an important advocate for the patient. 

#) INTERVENTIONS
- Medications: Risperidone
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare/Behavioral Interventions: pt should 
consider involvement in programs such as PREP or CEDAR. DMH 
application filled out and filed. Connected to intensive case 
management at his PCP's office who will complete the referral to 
a therapist and PREP. Patient was established with ___ psychiatric 
NP.  
- Guardianships: N/A

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting Risperidone, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any 
questions about medications with the treatment team. The patient 
appeared able to understand and consented to begin the 
medication.

RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to himself based on inability to care for 
self. His risk factors noted at that time included psychotic sx, 
hx substance abusive, isolative behaviors, lack of outpt 
providers. However, patient denies any active SI with no 
evidence of prior history of self injurious behaviors. 
Modifiable risk factors were addressed during hospitalization 
via medication management, psychotherapeutic intervention, and 
aftercare coordination.  The patient is being discharged with 
many protective risk factors, including spirituality, lack of 
access to lethal weapons, good support system, no hx of 
impulsivity, lack of suicidal ideation, and no prior suicide 
attempts/self-injurious behavior. Given the above, my ___ 
assessment is that the patient's suicide risk at time of 
discharge is low. The prognosis of his illness is yet to be 
determined but he will require close follow-up my medical, 
psychiatric and therapeutic providers as well as ongoing 
medication adherence to maintain psychiatric stability. The 
results of his cognitive assessment demonstrate that he is 
experiencing a severe deficit as compared to his baseline. This 
should be repeated after he cessation of the psychotic episode. 
 
 
Medications on Admission:
No previous medications. 
 
Discharge Medications:
1.  RisperiDONE 2.5 mg PO QHS 
RX *risperidone [___] 2 mg 1 tablet(s) by mouth at bedtime 
Disp #*30 Tablet Refills:*0
RX *risperidone [Risperdal] 0.5 mg 1 tablet(s) by mouth at 
bedtime Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified psychotic disorder - r/o new onset psychosis vs. 
primary mood disorder (specifically bipolar disorder with 
psychotic features)

 
Discharge Condition:
Mental Status: Somewhat guarded but communicative. Oriented to 
date, day, month, year, city and hospital name. 
Level of ___: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
- We recommend that you buy a pill box to store your medications 
and set an alarm to remind you to take your medication at the 
same time every evening.
-Please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol, nicotine, marijuana, and any 
drugs--whether prescription drugs or illegal drugs--as this can 
further worsen your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___